US08563715B2
The synthesis method shall be explained concretely, and in order, below. A solution of 5-amino-2-(4-phenylpiperazin-1-yl)-4,6-dimorpholinopyrimidine (700 mg, 1.64 mmol), acetic anhydride (5 ml), and pyridine (a few drops) was agitated for 1 hour at 60 degrees Celsius. The deposited solid was captured by filtering, washed with ether, and 330 mg of 5-acetylamino-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine was obtained (43% yield). The melting point measurement result, the MS measurement result, and the NMR data for the obtained Compound 77 are shown below.

reactant | 5-amino-2-(4-phenylpiperazin-1-yl)-4,6-dimorpholinopyrimidine | 1.64 mmol, 700 mg | NC=1C(=NC(=NC1N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1)N1CCOCC1 | C22H31N7O2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | pyridine | a few drops | N1=CC=CC=C1 | C5H5N
product | 5-acetylamino-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine | 330 mg, 43% yield | C(C)(=O)NC=1C(=NC(=NC1N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1)N1CCOCC1 | C24H33N7O3
